US08729078B2
In a 25 mL round-bottomed flask, 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(2-fluorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (65 mg, 116 μmol) and [hydrogen bis(dimethylphosphinito-kP)]platinum (II) (497 μg, 1.16 μmol, Eq: 0.01) were combined with Ethanol (853 μl) and Water (853 μl) to give a colorless solution. The reaction mixture was heated to 45° C. and stirred for 1 h. Mixture was concentrated in vacuo, then diluted with acetonitrile and water and filtered. The resultant filtrate was lyophilized to give 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(2-fluoro-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide (61 mg, 91%, [M+H]+ 580).

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(2-fluorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 116 μmol, 65 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)C2=C(C=CC=C2)F)C#N)CO | C33H25F2N5O2
reactant | Ethanol | 853 μl | C(C)O | C2H6O
solvent | Water | 853 μl | O | H2O
product | 1-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(2-fluoro-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide | 61 mg, 91% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)C2=C(C=CC=C2)F)C(=O)N)CO | C33H27F2N5O3
